US04129728
Diethyl (benzylthiomethyl)phosphonate
A mixture of benzyl chloromethyl sulfide (20 g., 0.116 mole), prepared according to the method of Bohme, Fischer and Frank [Ann., 563, 54 (1949)], and triethylphosphite (26.9 g., 0.162 mole) was heated with stirring at 155° C. (bath temperature) for 8 hours under a nitrogen atmosphere. The temperature of the oil bath was then raised to 170° C. and the volatile materials removed by distillation under reduced pressure. The residue was chromatographed on silica by eluting with ethyl acetate/benzene mixtures which gave 21.5 g. of the title compound as a liquid.

reactant | benzyl chloromethyl sulfide | 0.116 mole, 20 g | ClCSCC1=CC=CC=C1 | C8H9ClS
reactant | triethylphosphite | 0.162 mole, 26.9 g | C(C)OP(OCC)OCC | C6H15O3P
product | Diethyl (benzylthiomethyl)phosphonate | C(C1=CC=CC=C1)SCP(OCC)(OCC)=O | C12H19O3PS
